US07851474B2
M. 1-(4-{4-[2-(4-Cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}phenyl)pyrrolidin-2-one (Compound 13)
In a sealed tube, place 1-(3-bromophenyl)-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine (150 mg, 0.355 mmol), 2-pyrrolidone (90 mg, 1.07 mmol), Cs2CO3 (346 mg, 1.065 mmol), xantphos (20 mg, 0.036 mmol), and Pd2dba3 (32 mg, 0.355 mmol). Add dioxane (6 mL) and degas the mixture with N2. Seal the tube and heat at 120° C. overnight. Cool and partition between EtOAc (50 mL) and 1N NaOH (50 mL). Extract with EtOAc (2×50 mL). Combine, dry and evaporate the organic extracts. Purify the crude product by PTLC eluting with EtOAc/MeOH/TEA(95:5:5) to yield the title compound. 1H NMR (CDCl3) δ 7.48 (d, 2H) 6.3 (d, 2H), 3.84 (t, 2H), 3.66 (br m, 4H), 3.25 (s, 2H), 3.18 (t, 4H), 2.76-2.57 (m, 7H), 2.35-2.30 (m, 4H), 2.20-2.02 (m, 4H), 1.98-1.86 (m, 2H), 1.77-1.68 (m, 2H); LC-MS (M+1) 426.09.

reactant | 1-(3-bromophenyl)-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine | 0.355 mmol, 150 mg | BrC=1C=C(C=CC1)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1 | C20H29BrN4O
reactant | 2-pyrrolidone | 1.07 mmol, 90 mg | N1C(CCC1)=O | C4H7NO
reactant | Cs2CO3 | 1.065 mmol, 346 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xantphos | 0.036 mmol, 20 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2dba3 | 0.355 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-{4-[2-(4-Cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}phenyl)pyrrolidin-2-one | C1(CCC1)N1CCN(CC1)C(CN1CCN(CC1)C1=CC=C(C=C1)N1C(CCC1)=O)=O | C24H35N5O2
